US08937078B2
Step B: Preparation of 4-(4-tert-butyl-phenylsulfanyl)-3-chloroaniline:
1-(4-tert-butyl-phenylsulfanyl)-2-chloro-4-nitro-benzene was dissolved in acetone (15 mL), then saturated aqueous NH4Cl (5 mL) was added and the mixture was cooled to 0° C. Solid zinc powder (3.7 g, 56 mmol) was added in portions over 10 min with rapid stirring. The mixture was allowed to warm to rt and was stirred 3 h. The mixture was diluted with EtOAc (250 mL), dried, and filtered through Celite®. Removal of solvent gave a yellow residue, which was used without further purification. MS (ESI): mass calcd. for C16H18ClNS, 291.1; m/z found 292.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 7.33-7.21 (m, 3H), 6.95 (d, J=8.5, 2H), 6.77 (d, J=2.4, 1H), 6.55 (dd, J=8.4, 2.4, 1H), 5.80 (s, 2H), 1.22 (s, 9H).

reactant | 1-(4-tert-butyl-phenylsulfanyl)-2-chloro-4-nitro-benzene | C(C)(C)(C)C1=CC=C(C=C1)SC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C16H16ClNO2S
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
catalyst | zinc | 56 mmol, 3.7 g | [Zn] | Zn
product | 4-(4-tert-butyl-phenylsulfanyl)-3-chloroaniline | C(C)(C)(C)C1=CC=C(C=C1)SC1=C(C=C(N)C=C1)Cl | C16H18ClNS
